2200-12-16 03:10:00 Physician Attending Progress Note
Chief Complaint: hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72M admitted with abdominal pain x 1 day, no fevers. In ER, abd CT with
   left kidney stone with edema and stranding of kidney. Given morphine
   then dilaudid, received IVF and lasix help. This eve, POx 85% on 3L NC
   and new dyspnea. Given lasix with good urine output.
   Transferred to ICU and placed on BiPAP. Continues to complain of
   abdominal pain, dyspnea is mild.
   24 Hour Events:
   History obtained from housestaff
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   HTN
   CAD, NSTEMI in setting of GI bleed
   EF 40%
   CRI - baseline creatinine 1.4-6
   GI Bleed
   OSA
   emphysema
   AF
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2200-12-16**] 03:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 73 (73 - 76) bpm
   RR: 24 (17 - 24) insp/min
   SpO2: 86%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    700 mL
   Urine:
   700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: BiPAP with 15 L O2
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Neurologic: Attentive, asking for something to drink
   Labs / Radiology
   2.7
   37
   12
        [image002.jpg]
   Other labs: PT / PTT / INR://2.7
   Fluid analysis / Other labs: 7.36/36/72 on 100% NRB
   Imaging: CXR new bilateral patchy infiltrates
   ECG: AF, LBBB, unchanged
   Assessment and Plan
   hypoxemia, new infiltrates - suspect pulmonary edema, less likely
   aspiration, pneumonia, drug reaction. continue BiPAPand diurese as
   tolerated.
   kidney stone - supportive care, continue empiric [**Last Name (LF) **], [**First Name3 (LF) 178**] discuss with
   Uro
   worsening renal function - concerning that this is happening despite
   the IVF given over past 1-2 days, may need stone removed
   AF - hold coumadin, continue metoprolol
   ICU Care
   Nutrition: npo for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-12-16**] 02:24 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2200-12-16 05:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No Events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2200-12-16**] 02:51 AM
   Hydromorphone (Dilaudid) - [**2200-12-16**] 02:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-12-16**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 72 (66 - 76) bpm
   BP: 127/61(77) {127/58(75) - 152/63(83)} mmHg
   RR: 21 (17 - 24) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,050 mL
   Urine:
   1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,050 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 92%
   ABG: ////
   Physical Examination
   Gen: NAD, Pleasant
   Pulm: Bilateral Lower Lobe rales, No wheezing.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   180
   11.9
   106
   3.1
   21
   4.4
   38
   109
   140
   37.4
   11.3
        [image002.jpg]
   TT: 0.03
   CK: 364
   CKMB: 6
   INR: 3.8 PTT: 37.6
   CT ABD/Pelvis:  Left mid ureteral stone 2.5mm, Left perinephric
   stranding, mild renal edema.
   Assessment and Plan
   71 M w/ pmh of non-ischemic cardiomyopathy (EF 40%), CAD, OSA, HTN,
   CKD, 40 pack year smoking history admitted w/ flank pain, found to have
   kidney stone and acute on chronic renal failure, being transferred to
   the MICU for hypoxia.
   .
   # Hypoxia: Patient with new O2 requirement, now O2 sat between 85 and
   90% on 5L nc. Differential includes aspiration event, PE, MI, vs fluid
   overload. No witnessed aspiration event. No clear infiltrate on CXR. No
   CP, but will rule out MI. PE unlikely given that the patient is
   therapeutic on coumadin. Patient also has 40 pack year smoking history
   and ?diagnosis of emphysema. Will tolerate O2 sats in low 90s. Given
   that patient has received continue IVFs over 1.5 days for
   nephrolithiasis, fluid overload is most likely, and most consistent
   with CXR.
   -FU repeat CXR in AM
   - I/Os goal -1L today.
   -cycle CEs
   -obtain EKG
   -continue home CPAP settings for OSA
   #) Kidney Stone: Patient's first kidney stone, risk factors include
   obseity, HTN and patient with history of thyroidectomy for medullary ca
   so on calcitriol. Renal function at baseline (Cr 1.4-1.7), 2.3 on
   admission, now 2.7. Patient has good urine output. This could
   potentially be secondary to stone. Urology was reportedly consulted in
   ED, though no note in chart or OMR.
   -Hold IV fluids given new hypoxia
   -continue Flomax and lasix
   -Dilaudid for Pain control
   -Zofran for nausea
   -strain urine
   -Ceftriaxone for possible infected stone given perinephric stranding
   WBC count with neutrophillic predominence
   -Consider reconsulting given worsening renal failure despite 2 days IV
   fluids, and now diuresis
   - renally dose meds
   - avoid nephro-toxins
   - hold lisinopril
   - repeat Cr in AM.
   - f/u CT abdomen to look for hydronephrosis
   - send urine lytes
   .
   # Acute on Chronic Renal Disease: Unclear etiology of Chronic Disease.
   Acute change in function may be secondary to obstructing stone. However
   no clear evidence of hydroureter.
   .
   #) HTN:
   -continue amlodipine, metoprolol
   -hold lisinopril for ARF
   .
   #) Atrial fibrillation: rate controlled on metoprolol and therapeutic
   on coumadin. INR 2.7.
   - hold coumadin in anticipation of potential urologic procedure if
   continues to have worsening renal failure
   -continue metoprolol
   -daily INR
   .
   #) Chronic systolic heart failure: [**1-20**] non-ischemic cardiomyopathy w/
   EF 40%. Appears mildly hypervolemic.
   - continue b-blocker,
   -continue lasix
   .
   #) OSA:
   -CPAP
   .
   #) H/O PUD/Gastritis:
   -PPI [**Hospital1 **]
   .
   #) s/p thyroidectomy:
   -continue levothyroxine
   .
   #) s/p parathyroidectomy:
   -continue calcitriol
   .
   #) Depression:
   -continue fluoxetine, trazadone prn
   .
   #) Prophylaxis: PPI, therapeutic on coumadin, bowel regimen
   .
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: therapeutic on Coumadin
   # Access: peripherals
   # Communication: Patient via interpreter
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-12-16**] 02:24 AM
   Prophylaxis:
   DVT: supratherapeutic INR
   Stress ulcer:  PPI
                  Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: To floor when sating appropriately on room air.

2200-12-17 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Fluid Overload secondary to IVF, Nephrolithiasis
   24 Hour Events:
   - Renal consult - they also think likely pre-renal (forward flow) v.
   renal vascular disease.  [**Month (only) 60**] consider Doppler study in future. They
   were not impressed by 2.5 mm stone. Urine Eos negative. Diuresed
   aggressively (3.3 L - want to check creatinine before diuresing more -
   if stable then continue diuresis in a.m.).  Complement levels pending.
   - UA shows blood - maybe due to stone. Repeat.
   - Was anxious on BiPAP this a.m. - gave ativan.  Did well on trial off
   BiPAP, but back on again now.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2200-12-16**] 08:40 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2200-12-16**] 01:27 PM
   Furosemide (Lasix) - [**2200-12-16**] 05:00 PM
   Hydromorphone (Dilaudid) - [**2200-12-17**] 06:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-12-17**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.7
C (98
   HR: 81 (71 - 86) bpm
   BP: 140/42(68) {113/34(56) - 157/90(97)} mmHg
   RR: 24 (13 - 24) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    683 mL
                                                                    553 mL
   PO:
                                                                    480 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    203 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  4,030 mL
                                                                    540 mL
   Urine:
                                                                  4,030 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,347 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 929 (929 - 929) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 6 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: 7.39/35/70/22/-2
   Ve: 8.3 L/min
   PaO2 / FiO2: 175
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   143 K/uL
   11.3 g/dL
   110 mg/dL
   3.2 mg/dL
   22 mEq/L
   4.1 mEq/L
   43 mg/dL
   106 mEq/L
   140 mEq/L
   34.3 %
   9.7 K/uL
        [image002.jpg]
                            [**2200-12-16**]  05:43 AM
                            [**2200-12-16**]  01:19 PM
                            [**2200-12-16**]  02:02 PM
                            [**2200-12-16**]  04:46 PM
                            [**2200-12-16**]  07:51 PM
                            [**2200-12-17**]  03:19 AM
   WBC
   11.3
   9.7
   Hct
   37.4
   34.3
   Plt
   180
   143
   Cr
   3.1
   3.1
   3.1
   3.2
   TropT
   0.03
   0.03
   0.02
   TCO2
   22
   Glucose
   106
   102
   96
   110
   Other labs: PT / PTT / INR:35.3/39.1/3.6, CK / CKMB /
   Troponin-T:546/6/0.02, Lactic Acid:1.1 mmol/L, Ca++:7.8 mg/dL, Mg++:2.0
   mg/dL, PO4:3.5 mg/dL
   Urine Cx: Pending
   Renal Ultrasound:  Mild fullness of the left kidney, unchanged from CT.
   No hydronephrosis seen in right kidney.
   Assessment and Plan
   71 M w/ pmh of non-ischemic cardiomyopathy (EF 40%), CAD, OSA, HTN,
   CKD, 40 pack year smoking history admitted w/ flank pain, found to have
   kidney stone and acute on chronic renal failure, being transferred to
   the MICU for hypoxia.
   .
   # Hypoxia: Fluid Overload. Improved oxygen saturation after IV lasix.
   Cardiac enzymes minimally elevated in setting of acute renal failure
   and demand ischemia peri hypoxia.
   -FU repeat CXR in AM
   - Lasix 40mg IV - > I/Os goal -2L today.
   -continue to cycle cardiac enzymes.
   -obtain EKG
   -continue home CPAP settings for OSA
   #) Kidney Stone: Patient's first kidney stone, risk factors include
   obseity, HTN and patient with history of thyroidectomy for medullary ca
   so on calcitriol. Renal function at baseline (Cr 1.4-1.7), 2.3 on
   admission, now 2.7. Patient has good urine output. This could
   potentially be secondary to stone.
   -Urology consult today.
   -Hold IV fluids given new hypoxia
   -continue Flomax and lasix
   -Dilaudid for Pain control
   -Zofran for nausea
   -strain urine
   -Ceftriaxone for possible infected stone given perinephric stranding
   WBC count with neutrophillic predominence
   - renally dose meds
   - avoid nephro-toxins
   - hold lisinopril
   - repeat Cr in AM.
   - Renal Ultrasound
   - send urine lytes
   .
   # Acute on Chronic Renal Disease: Unclear etiology of Chronic Disease.
   Acute change in function may be secondary to obstructing stone. However
   no clear evidence of hydroureter.
   -          Urine lytes
   -          Renal ultrasound
   -          Repeat creatinine this afternoon
   -          Renally dose meds
   .
   #) HTN:
   -continue amlodipine, metoprolol
   -hold lisinopril for ARF
   .
   #) Atrial fibrillation: rate controlled on metoprolol and therapeutic
   on coumadin. INR 2.7.
   - hold coumadin in anticipation of potential urologic procedure if
   continues to have worsening renal failure
   - continue metoprolol
   - daily INR
   .
   #) Chronic systolic heart failure: [**1-20**] non-ischemic cardiomyopathy w/
   EF 40%. Appears mildly hypervolemic.
   - continue b-blocker,
   -continue lasix
   .
   #) OSA:
   -CPAP
   .
   #) H/O PUD/Gastritis:
   -PPI [**Hospital1 **]
   .
   #) s/p thyroidectomy:
   -continue levothyroxine
   .
   #) s/p parathyroidectomy:
   -continue calcitriol
   .
   #) Depression:
   -continue fluoxetine, trazadone prn
   .
   #) Prophylaxis: PPI, therapeutic INR (will hold coumadin at this time),
   bowel regimen
   .
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: therapeutic INR, Holding Coumadin
   # Access: peripherals
   # Communication: Patient via interpreter
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-12-16**] 02:24 AM
   20 Gauge - [**2200-12-16**] 03:22 PM
   Prophylaxis:
   DVT: supratherapeutic INR
   Stress ulcer:  PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: Floor pending resolution of hypoxia.

2200-12-18 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Fluid Overload in setting of IVF for Nephrolithiasis
   24 Hour Events:
   - C3/4 levels: 110/26
   - UA: lg blood / 25 protein / > 50 RBC / [**2-20**] WBC / few bacteria
   - Lasix bolus with I/O @ 21:50 -540, rebolused with I/O of -1 liter.
   - Still no stooling despite colace, senna, biscodyl, soap suds enema,
   mirilax
   - Pt continues to complain of abdominal pain today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2200-12-17**] 10:19 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2200-12-18**] 03:13 AM
   Furosemide (Lasix) - [**2200-12-18**] 07:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-12-18**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.4
   HR: 82 (75 - 89) bpm
   BP: 129/54(74) {116/37(60) - 164/102(110)} mmHg
   RR: 21 (16 - 38) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  1,180 mL
                                                                    240 mL
   PO:
                                                                    930 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    710 mL
   Urine:
                                                                  2,340 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,160 mL
                                                                   -470 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Bipap mask
   SpO2: 89%
   ABG: ///24/
   Physical Examination
   Gen: Anxious, Complaining of abdominal pain
   Pulm: Bilateral basilar rales
   CV: No M/R/G
   Abd: Minimal distention with +bowel sounds. Minimal ttp over epigastrum
   Neck: JVP 10cm
   Labs / Radiology
   150 K/uL
   11.6 g/dL
   120 mg/dL
   3.1 mg/dL
   24 mEq/L
   4.4 mEq/L
   41 mg/dL
   103 mEq/L
   137 mEq/L
   35.3 %
   9.6 K/uL
        [image002.jpg]
                            [**2200-12-16**]  05:43 AM
                            [**2200-12-16**]  01:19 PM
                            [**2200-12-16**]  02:02 PM
                            [**2200-12-16**]  04:46 PM
                            [**2200-12-16**]  07:51 PM
                            [**2200-12-17**]  03:19 AM
                            [**2200-12-17**]  06:28 PM
                            [**2200-12-18**]  03:15 AM
   WBC
   11.3
   9.7
   9.6
   Hct
   37.4
   34.3
   35.3
   Plt
   180
   143
   150
   Cr
   3.1
   3.1
   3.1
   3.2
   2.8
   3.1
   TropT
   0.03
   0.03
   0.02
   TCO2
   22
   Glucose
   106
   102
   96
   110
   166
   120
   Other labs: PT / PTT / INR:30.6/34.1/3.1, CK / CKMB /
   Troponin-T:546/6/0.02, ALT / AST:59/45, Alk Phos / T Bili:100/0.9,
   Amylase / Lipase:/10, Lactic Acid:1.1 mmol/L, LDH:320 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Blood/Urine Cultures: Pending
   Assessment and Plan
   71 M w/ pmh of non-ischemic cardiomyopathy (EF 40%), CAD, OSA, HTN,
   CKD, 40 pack year smoking history admitted w/ flank pain, found to have
   kidney stone and acute on chronic renal failure, being transferred to
   the MICU for hypoxia.
   .
   # Hypoxia: Fluid Overload. Improved oxygen saturation after IV lasix.
   Stable on 4-5L NC.  Cardiac Enzymes flat.
   -FU repeat CXR in AM
   - Lasix 60mg IV - > goal Euvolemic to
 one liter
   -repeat EKG in AM
   -continue home CPAP settings for OSA at night
   # Abdominal Pain: [**Month (only) 60**] be secondary to kidney stone. However patient
   with constipation and more epigastric tenderness today. Liver enzymes
   unremarkable. Tolerating normal diet.
   - KUB today
   - PO Narcan for bowel movement
   - Continue bowel regimen
   #) Kidney Stone: Patient's first kidney stone, risk factors include
   obseity, HTN and patient with history of thyroidectomy for medullary ca
   so on calcitriol. Renal function at baseline (Cr 1.4-1.7), 2.3 on
   admission, now 3.2. Patient has good urine output. This could
   potentially be secondary to stone. Renal ultrasound without
   hydronephrosis.
   -continue Flomax and lasix
   -Dilaudid for Pain control
   -strain urine
   -Ceftriaxone for possible infected stone given perinephric stranding
   WBC count with neutrophillic predominence
   - renally dose meds
   - avoid nephro-toxins
   - hold lisinopril
   - repeat Cr in AM.
   .
   # Acute on Chronic Renal Disease: Unclear etiology of Chronic Disease.
   Acute change most likely secondary to poor forward flow. However no
   clear evidence of hydroureter.  FeUrea 53%, pointing toward intrinsic
   etiology. No hypocomplementemia. Blood in urine.
   - Renally dose meds
   - Fu Renal recommendations.
   .
   #) HTN:
   -continue metoprolol, consider increasing metoprolol prn bp control.
   -hold lisinopril for ARF
   .
   #) Atrial fibrillation: rate controlled on metoprolol and therapeutic
   on coumadin. INR 2.7.
   - hold coumadin given supratherapeutic, restart when low therapeutic
   range.
   - continue metoprolol
   - daily INR
   .
   #) Chronic systolic heart failure: [**1-20**] non-ischemic cardiomyopathy w/
   EF 40%. Appears mildly hypervolemic.
   - continue b-blocker
   -continue lasix
   - holding lisinopril
   .
   #) OSA:
   -CPAP
   .
   #) H/O PUD/Gastritis:
   -PPI [**Hospital1 **]
   .
   #) s/p thyroidectomy:
   -continue levothyroxine
   .
   #) s/p parathyroidectomy:
   -continue calcitriol
   .
   #) Depression:
   -continue fluoxetine, trazadone prn
   .
   #) Prophylaxis: PPI, therapeutic INR (will hold coumadin at this time),
   bowel regimen
   .
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: therapeutic INR, Holding Coumadin
   # Access: peripherals
   # Communication: Patient via interpreter
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition: PO
   Lines:
   18 Gauge - [**2200-12-16**] 02:24 AM
   20 Gauge - [**2200-12-16**] 03:22 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin, Supratherapeutic  INR)
   Stress ulcer: PPI [**Hospital1 **]
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To Floor later today if stable.